US05206375
A mixture of 5.2 parts of N,N-dimethyl-N'-(4-chloro-3-cyano-5-nitrothien-2-yl)-formamidine, 50 parts of ethanol and 5 parts of concentrated hydrochloric acid is heated at the boil for 3 hours and then poured onto ice water. The precipitate is filtered off under suction, washed with water and dried. 3.2 parts (79% of theory) of 2-amino-4-chloro-3-cyano-5-nitrothiophene are obtained. Decomposition temperature: 227° C. (from o-dichlorobenzene).

reactant | N,N-dimethyl-N'-(4-chloro-3-cyano-5-nitrothien-2-yl)-formamidine | CN(C=NC=1SC(=C(C1C#N)Cl)[N+](=O)[O-])C | C8H7ClN4O2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-chloro-3-cyano-5-nitrothiophene | 79% | NC=1SC(=C(C1C#N)Cl)[N+](=O)[O-] | C5H2ClN3O2S
